2101-04-16 12:04:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: hypoxia, hypercarbia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 no events
 agitated at times
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Tetracycline
   Unknown;
   Erythromycin (Oral) (Erythromycin Base)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Cough
   Flowsheet Data as of  [**2101-4-16**] 12:04 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98
   HR: 88 (84 - 102) bpm
   BP: 104/54(64) {96/49(61) - 127/71(85)} mmHg
   RR: 30 (15 - 34) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                    250 mL
                                                                    600 mL
   PO:
                                                                    250 mL
                                                                    600 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    500 mL
                                                                  1,100 mL
   Urine:
                                                                    500 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -250 mL
                                                                   -500 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   SpO2: 95%
   ABG: ///37/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No(t) Cyanosis
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   13.6 g/dL
   142 K/uL
   132 mg/dL
   0.7 mg/dL
   37 mEq/L
   3.7 mEq/L
   14 mg/dL
   95 mEq/L
   139 mEq/L
   42.9 %
   5.6 K/uL
         [image002.jpg]
                             [**2101-4-12**]  12:39 AM
                             [**2101-4-12**]  03:15 AM
                             [**2101-4-13**]  02:20 AM
                             [**2101-4-14**]  04:30 AM
                             [**2101-4-16**]  09:10 AM
   WBC
   6.4
   7.6
   7.7
   5.6
   Hct
   41.0
   38.6
   41.6
   42.9
   Plt
   146
   180
   162
   142
   Cr
   0.7
   0.6
   0.6
   0.7
   TCO2
   40
   Glucose
   115
   113
   102
   132
   Other labs: PT / PTT / INR:12.6/26.9/1.1, ALT / AST:21/23, Alk Phos / T
   Bili:83/0.4, Albumin:3.9 g/dL, LDH:194 IU/L, Ca++:8.9 mg/dL, Mg++:1.8
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 HYPERCARBIA
   chronic in nature
   etiology not entirely clear.  heavy smoker but young to develop sig
   copd/co2 retention
 HYPOXEMIA
   ? shunt but negative echo/bubble study
   supp O2 as required
   pulm had been following prior to transfer to ICU
 BIPOLAR/SCHIZOAFFECTIVE
   cont med regimen
   psych following
   agitation at times
 head lice
   s/p treatment
   derm following
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2101-4-15**] 06:24 PM
   22 Gauge - [**2101-4-15**] 06:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: